US09382222B2
To a solution of cyclobutyl-(3-fluoro-phenyl)-amine (447 mg, 2.7 mmol) in DCM (8 mL) was added pyridine (438 μL, 5.4 mmol) followed by 4-fluorobenzenesulfonyl chloride (633 mg, 3.3 mmol) in DCM (3 mL) and then the reaction was stirred at room temperature for 2 hrs. The reaction was left to stand at room temperature for 64 hours. 1 M aqueous HCl was added then extracted with DCM, filtered through a phase separator and then purified by silica gel column chromatography (0-50% DCM in cyclohexane) to give N-cyclobutyl-4-fluoro-N-(3-fluoro-phenyl)-benzenesulfonamide (756 mg, 2.3 mmol, 85%). LCMS (m/z, Method A) ES+ 324 [M+1]+.

reactant | cyclobutyl-(3-fluoro-phenyl)-amine | 2.7 mmol, 447 mg | C1(CCC1)NC1=CC(=CC=C1)F | C10H12FN
reactant | pyridine | 5.4 mmol, 438 μL | N1=CC=CC=C1 | C5H5N
reactant | 4-fluorobenzenesulfonyl chloride | 3.3 mmol, 633 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | HCl | 1 M | Cl | ClH
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-cyclobutyl-4-fluoro-N-(3-fluoro-phenyl)-benzenesulfonamide | 2.3 mmol, 756 mg, 85% | C1(CCC1)N(S(=O)(=O)C1=CC=C(C=C1)F)C1=CC(=CC=C1)F | C16H15F2NO2S
